US07115615B2
Tert-butyldimethylsilyl chloride (9.05 g) was added to a stirred mixture of 1-(2-hydroxyethyl)-5-methylimidazole (6.4 g), imidazole (7.5 g) and methylene chloride (30 ml) which was cooled to 0° C. The reaction mixture was stirred at ambient temperature for 4 hours. The mixture was poured into water. The organic layer was washed with brine, dried over magnesium sulphate and evaporated to give 1-(2-tert-butyldimethylsilyloxyethyl)-5-methylimidazole (11.7 g); NMR Spectrum: (CDCl3)−0.04 (s, 6H), 0.85 (s, 6H), 2.2 (s, 3H), 3.8 (m, 2H), 3.94 (m, 2H), 6.75 (s, 1H), 7.43 (s, 1H).

reactant | Tert-butyldimethylsilyl chloride | 9.05 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1-(2-hydroxyethyl)-5-methylimidazole | 6.4 g | OCCN1C=NC=C1C | C6H10N2O
reactant | imidazole | 7.5 g | N1C=NC=C1 | C3H4N2
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(2-tert-butyldimethylsilyloxyethyl)-5-methylimidazole | 11.7 g | [Si](C)(C)(C(C)(C)C)OCCN1C=NC=C1C | C12H24N2OSi
